US07544702B2
Bromine (1.78 ml, 34.8 mmol) was added dropwise over an hour to a stirred solution of 2-amino-isonicotinic acid methyl ester (5.13 g, 33.75 mmol) in chloroform (350 ml) at room temperature and the orange solution stirred at room temperature overnight. A 2N solution of sodium thiosulfate (300 ml) was added to the reaction and stirred for ten minutes. The two layers were separated and the aqueous extracted with chloroform (100 ml). The combined organics were dried (MgSO4) and concentrated under reduced pressure. The desired isomer was purified by flash column chromatography using ethyl acetate 2/3 hexane as eluent to afford 2-amino-5-bromo-isonicotinic acid methyl ester as a yellow solid (1.79 g, 23%). 1H NMR (CDCl3): 8.21 (1H, s, py); 6.79 (1H, s, py); 4.53 (2H, br s, NH2); 3.88 (3H, S, CO2CH3).

reactant | Bromine | 34.8 mmol, 1.78 ml | BrBr | Br2
reactant | 2-amino-isonicotinic acid methyl ester | 33.75 mmol, 5.13 g | COC(C1=CC(=NC=C1)N)=O | C7H8N2O2
reactant | sodium thiosulfate | 300 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 350 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-5-bromo-isonicotinic acid methyl ester | 1.79 g, 23% | COC(C1=CC(=NC=C1Br)N)=O | C7H7BrN2O2
